US09340546B2
2-acetyl-N-(3-bromopyridin-4-yl)hydrazinecarbothioamide (200 mg, 0.6917 mmol) was dissolved in sodium hydrogen carbonate (4 mL,) and stirred at 50° C. for 2 hrs and at 100° C. for 5 hrs. The reaction mixture was then allowed to stand at RT for 48 h before it was carefully neutralised with dilute HCl and partitioned with 10% MeOH in DCM. The aqueous layer was extracted with further 10% MeOH in DCM (3×10 mL) and the combined organics were dried over Na2SO4, filtered and concentrated under reduced pressure to give 4-(3-bromopyridin-4-yl)-5-methyl-4H-1,2,4-triazole-3-thiol as an orange solid (152.6 mg). MS (ES+) 272.9.

reactant | 2-acetyl-N-(3-bromopyridin-4-yl)hydrazinecarbothioamide | 0.6917 mmol, 200 mg | C(C)(=O)NNC(NC1=C(C=NC=C1)Br)=S | C8H9BrN4OS
reactant | HCl | Cl | ClH
solvent | sodium hydrogen carbonate | 4 mL | C(O)([O-])=O.[Na+]
product | 4-(3-bromopyridin-4-yl)-5-methyl-4H-1,2,4-triazole-3-thiol | 152.6 mg | BrC=1C=NC=CC1N1C(=NN=C1C)S | C8H7BrN4S
